US08202872B2
A solution of N-(1-(2-(1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy)ethyl)pyrrolidin-3-yl)acetamide (0.1 g, 0.25 mmol) in water (2 ml) and 6N aqueous solution of HCl (2 ml) was refluxed for 5 hrs. The mixture was basified with 20% aqueous solution of NaOH and extracted with dichloromethane. The combined organic solutions was washed with water, dried over Na2SO4, filtered and evaporated to dryness yielding 80 mg of 1-{2-[1-(3,4-Dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}pyrrolidin-3-amine as an oil

reactant | N-(1-(2-(1-(3,4-dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy)ethyl)pyrrolidin-3-yl)acetamide | 0.25 mmol, 0.1 g | ClC=1C=C(C=CC1Cl)N1N=C(C=C1C)OCCN1CC(CC1)NC(C)=O | C18H22Cl2N4O2
reactant | HCl | 2 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 1-{2-[1-(3,4-Dichlorophenyl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}pyrrolidin-3-amine | 80 mg | ClC=1C=C(C=CC1Cl)N1N=C(C=C1C)OCCN1CC(CC1)N | C16H20Cl2N4O
